US05480857
A mixture of 5-chloro-1-methyl-3-trifluoromethylpyrazole-4-carboxylic acid (2.0 g), 4-fluorothiophenol (1.66 g) and anhydrous potassium carbonate (3.26 g) was heated under reflux in acetonitrile with stirring for 4 hours. After filtration the filtrate was evaporated, acidified with dilute hydrochloric acid and extracted with ethyl acetate. The combined extract was dried (anydrous magnesium sulphate), filtered and evaporated in vacuo. Recrystallisation from ether/hexane gave 5-(4-fluorophenylthio)-1-methyl-3-trifluoromethylpyrazole-4-carboxylic acid (0.98 g) m.p. 190°-193.7° C. as a white solid.

reactant | 5-chloro-1-methyl-3-trifluoromethylpyrazole-4-carboxylic acid | 2.0 g | ClC1=C(C(=NN1C)C(F)(F)F)C(=O)O | C6H4ClF3N2O2
reactant | 4-fluorothiophenol | 1.66 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | potassium carbonate | 3.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(4-fluorophenylthio)-1-methyl-3-trifluoromethylpyrazole-4-carboxylic acid | 0.98 g | FC1=CC=C(C=C1)SC1=C(C(=NN1C)C(F)(F)F)C(=O)O | C12H8F4N2O2S
